US06586441B2
2-Amino-4-(5-methyl-pyridin-2-yl-methoxy)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, 5-methyl-2-pyridinemethanol and DBU in DME. ES-MS m/e (%): 308 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | 5-methyl-2-pyridinemethanol | CC=1C=CC(=NC1)CO | C7H9NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(5-methyl-pyridin-2-yl-methoxy)-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=C(C=C1)C)C#N)N1N=CC=C1 | C15H13N7O
